US06727264B1
N-[3-(1-{6-(4-CHLOROPHENYL)-6-[2-FLUORO-5-(TRIFLUOROMETHYL)PHENOXY]HEXYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 2-fluoro-5-(trifluoromethyl)phenol and N-(3-{1-[6-(4-chlorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 619.2 (M+H)+.

reactant | 2-fluoro-5-(trifluoromethyl)phenol | FC1=C(C=C(C=C1)C(F)(F)F)O | C7H4F4O
reactant | N-(3-{1-[6-(4-chlorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide | ClC1=CC=C(C=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C27H37ClN2O2
product | N-[3-(1-{6-(4-CHLOROPHENYL)-6-[2-FLUORO-5-(TRIFLUOROMETHYL)PHENOXY]HEXYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=C(C=CC(=C1)C(F)(F)F)F | C34H39ClF4N2O2
